US07547710B2
To a solution of methyl 6-bromo-2-isobutyl-4-phenylquinoline-3-carboxylate (3.0 g, 7.5 mmol) in toluene (100 ml) was added 0.95 M solution (20 ml) of diisobutylaluminum hydride in toluene at −75° C. under a nitrogen atmosphere. After stirring the mixture at −75° C. for 1 hr., a solution of sodium sulfate (2.7 g) in water (15 ml) was added. The temperature of the mixture was raised to room temperature and the mixture was further stirred for 1 hr. Insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was crystallized from n-hexane, and recrystallized from n-hexane-toluene to give (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methanol (1.6 g, yield 57%) as pale-yellow crystals.

reactant | methyl 6-bromo-2-isobutyl-4-phenylquinoline-3-carboxylate | 7.5 mmol, 3.0 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C(=O)OC)C1=CC=CC=C1 | C21H20BrNO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate | 2.7 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 ml | O | H2O
product | (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methanol | 1.6 g, yield 57% | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CO)C1=CC=CC=C1 | C20H20BrNO
